US08029919B2
d) 10-(4-Hydroxyphenyl)phenothiazine 5,5-dioxide
3.10 g (7.50 mmol) of 10-(4-benzyloxyphenyl)phenothiazine 5,5-dioxide, 2.30 g (35.7 mmol) of 98% ammonium formate and 7.5 g of 10% palladium on activated carbon were heated to boiling under reflux in 225 ml of acetone for 1 hour. After cooling to room temperature, the solution was filtered. The filtrate was concentrated and, after adding 10 ml of methanol, stirred overnight. The solid was filtered off with suction, washed with methanol and dried at 110° C. in a vacuum drying cabinet. 1.47 g (61% of theory) of analytically pure light gray microcrystals having an m.p. of 308-311° C. were obtained.

reactant | 10-(4-benzyloxyphenyl)phenothiazine 5,5-dioxide | 7.50 mmol, 3.10 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C2=CC=CC=C2S(C=2C=CC=CC12)(=O)=O | C25H19NO3S
reactant | ammonium formate | 35.7 mmol, 2.30 g | C(=O)[O-].[NH4+]
catalyst | palladium on activated carbon | 7.5 g | [Pd] | Pd
solvent | acetone | 225 ml | CC(=O)C | C3H6O
product | 10-(4-Hydroxyphenyl)phenothiazine 5,5-dioxide | OC1=CC=C(C=C1)N1C2=CC=CC=C2S(C=2C=CC=CC12)(=O)=O | C18H13NO3S
